US08039495B2
2-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-thiazole-4-carboxylic acid
A solution of 2-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-thiazole-4-carboxylic acid ethyl ester (2.38 g, 5.870 mmol) in THF (40 mL) was treated with a solution of lithium hydroxide monohydrate (2.6 g, 61.96 mmol) in water (40 mL) at room temperature and stirred at 60° C. for 2 h. The mixture was cooled, diluted with water (75 mL), acidified with aq. 3N HCl and extracted with ethyl acetate (3×100 mL). The organic layers were combined, washed with brine (100 mL), dried (MgSO4), filtered and concentrated to 2-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-thiazole-4-carboxylic acid (2.13 g, 96.1%) as a pale yellow solid. LC-MS (ES) calculated for C18H13F2NO4S, 377.37; found m/z 378 [M+H]+.

reactant | 2-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-thiazole-4-carboxylic acid ethyl ester | 5.870 mmol, 2.38 g | C(C)OC(=O)C=1N=C(SC1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC | C20H17F2NO4S
reactant | lithium hydroxide monohydrate | 61.96 mmol, 2.6 g | O.[OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | 2-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-thiazole-4-carboxylic acid | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1SC=C(N1)C(=O)O)OC | C18H13F2NO4S
